US07557114B2
(a) 5-(2-Oxo-pyrrolidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Lit. J. Am. Chem. Soc. 2001, 123, 7727-7729. To a stirred suspension of 0.58 mmol 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) in 4 ml dioxane were added 0.12 mmol copper(I) iodide, 1.74 mmol potassium carbonate, 0.17 mmol trans-1,2-diaminocyclohexane and 2.90 mmol 2-pyrrolidone and the reaction mixture was stirred at 140° C. for 16 h. The mixture was then cooled to room temperature, filtered, and the filtrate was concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a white solid. MS (m/e): 247.3 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 0.58 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | potassium carbonate | 1.74 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | trans-1,2-diaminocyclohexane | 0.17 mmol | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | 2-pyrrolidone | 2.90 mmol | N1C(CCC1)=O | C4H7NO
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.12 mmol | [Cu]I
product | 5-(2-Oxo-pyrrolidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1C(CCC1)=O | C17H22N2O3
